US04604480
A mixture of 1-octene (2.82 g) and bromomethanesulfonyl bromide (6.0 g) in methylene chloride (4 mL) was irradiated at -20° C. with an ultraviolet lamp for 0.5 hours. A small amount of solid potassium carbonate was added and then removed by filtration. The reaction mixture was diluted with methylene chloride (50 mL), cooled in ice and treated with a solution of triethylamine (4.45 g) in 10 mL of methylene chloride. The reaction mixture was stirred for 0.25 hours and was washed with dilute HCl and water. The methylene chloride layer was separated, dried over anhydrous magnesium sulfate and the methylene chloride removed in vacuo to give 5.9 g (97% yield) of oily 1-octenyl bromomethyl sulfone which was characterized by IR and NMR spectroscopy.

reactant | 1-octene | 2.82 g | C=CCCCCCC | C8H16
reactant | bromomethanesulfonyl bromide | 6.0 g | BrCS(=O)(=O)Br | CH2Br2O2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-octenyl bromomethyl sulfone | 5.9 g, 97% yield | BrCS(=O)(=O)C=CCCCCCC | C9H17BrO2S
